US04680401
2.5 g of cyclopropylamine are added dropwise to a solution of 11 g of 2-(2,4-dichloro-benzoyl)-3-methoxyacrylonitrile in 40 ml of ethanol, while cooling with ice and stirring. The mixture is stirred at room temperature for 25 minutes and then heated at the boiling point for 15 minutes. The solvent is removed in vacuo and the residue is recrystallized from ethanol/light petrol. 10.5 g of 2-(2,4-dichloro-benzoyl)-3-cyclopropylaminoacrylonitrile of melting point 93°-94° C. are obtained.

reactant | cyclopropylamine | 2.5 g | C1(CC1)N | C3H7N
reactant | 2-(2,4-dichloro-benzoyl)-3-methoxyacrylonitrile | 11 g | ClC1=C(C(=O)C(C#N)=COC)C=CC(=C1)Cl | C11H7Cl2NO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2,4-dichloro-benzoyl)-3-cyclopropylaminoacrylonitrile | 10.5 g | ClC1=C(C(=O)C(C#N)=CNC2CC2)C=CC(=C1)Cl | C13H10Cl2N2O
